US08426449B2
Step 1: [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid
3-Hydroxyphenylacetic acid (1.34 g, 8.8 mmol) and 5-bromo-2-fluorobenzaldehyde (1.78 g, 8.8 mmol) were combined in DMF (30 mL) at room temperature. Sodium hydride (60% in mineral oil; 0.72 g, 18.0 mmol) was added, and the reaction was stirred at 70° C. for 2 hours. Aqueous work-up yielded the title compound.

reactant | 3-Hydroxyphenylacetic acid | 8.8 mmol, 1.34 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | 5-bromo-2-fluorobenzaldehyde | 8.8 mmol, 1.78 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | Sodium hydride | 18.0 mmol, 0.72 g | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)C=O | C15H11BrO4
